US04118483
(a) Z-D-Gln(Bzl)-OBzl
To a solution of 11.4 grams of Z-D-Gln-OBzl and 4.15 grams of 1-hydroxybenzotriazole in 50 ml of absolute tetrahydrofurane are added 3.35 ml of benzylamine and 6.76 grams of DCC. The mixture is stirred for 1 hour at 0° C and 1 hour at room temperature, the precipitate is filtered off with suction and the filtrate is concentrated. The residue is triturated in succession with NaHCO3 solution, 2n-HCl NaHCO3 solution and water, filtered off with suction and washed with water. Yield: 16.2 grams, melting point 144°. For purification recrystallisation from isopropanol is carried out. The product is washed with petroleum ether. Yield: 6 grams, melting point 149°, [α]D20 = -0.1 (c = 1, in glacial acetic acid.

reactant | Z-D-Gln-OBzl | 11.4 grams | N([C@H](CCC(N)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
reactant | 1-hydroxybenzotriazole | 4.15 grams | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzylamine | 3.35 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | DCC | 6.76 grams | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | Z-D-Gln(Bzl)-OBzl | N([C@H](CCC(NCC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H28N2O5
